US20010027196A1
5-Chloro-4-furan-2-yl-6-phenethyloxy-pyrimidin-2-yl-amine
From 5-chloro-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine, phenethyl alcohol and DBU in dioxane. ES-MS m/e (%): 318 (M{37Cl}+H+, 33), 316 (M{35Cl}+H+, 100).

reactant | 5-chloro-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | ClC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8ClN3O2S
reactant | phenethyl alcohol | C(CC1=CC=CC=C1)O | C8H10O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Chloro-4-furan-2-yl-6-phenethyloxy-pyrimidin-2-yl-amine | ClC=1C(=NC(=NC1OCCC1=CC=CC=C1)N)C=1OC=CC1 | C16H14ClN3O2
